US07271274B2
2,6-Di-tert-butyl-4-{1-[3,5-di-tert-butyl-4-(2-ethoxy-5(s)-methoxymethyl-[1,3]dioxolan-4(S)-ylmethoxy)-phenylsulfanyl]-1-methyl-ethylsulfanyl}-phenol (Ex-15A, 0.72 g, 1.1 mmol) was dissolved in methanol (3 mL). Acetic acid (0.14 mL) and water (0.14 mL) were added and the resultant mixture was stirred at reflux for 3 h. The reaction mixture was diluted with water (10 mL) and extracted with dichloromethane (3×10 mL). The combined organic extracts were dried over sodium sulfate and concentrated to an off-white foam. The residue was dissolved in methanol (3 mL) and potassium carbonate (0.085 g) was added. The mixture was stirred at room temperature for 30 min and diluted with water (10 mL). The solution was extracted with dichloromethane (3×10 mL), dried over sodium sulfate, and concentrated to a white foam. Silica gel chromatography (3:1 ethyl acetate: hexanes) gave 0.18 g (99%) of 1-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxyphenylsulfanyl)-1-methylethylsulfanyl]phenoxy}-4-methoxybutane-2(S),3(S)-diol as a white solid, mp 62–64° C. 1H-NMR (CDCl3) δ 7.55 (s, 2H), 7.45 (s, 2H), 5.36 (s, 1H), 4.25–4.26 (m, 1H), 3.86–3.90 (m, 3H), 3.59–3.61 (m, 2H), 3.41 (s, 3H), 2.79 (d, 1H, J=4.8 Hz), 2.63 (d, 1H, J=4.8 Hz), 1.42–1.45 (m, 42H). HRMS (ESI) calcd for C36H58O5S2 (M+Na), 657.3624; Found, 657.3630. Anal. calcd. for C36H58O5S2: C, 68.10, H, 9.21, S, 10.10; Found: C, 68.47, H, 9.38, S, 9.85.

reactant | 2,6-Di-tert-butyl-4-{1-[3,5-di-tert-butyl-4-(2-ethoxy-5(s)-methoxymethyl-[1,3]dioxolan-4(S)-ylmethoxy)-phenylsulfanyl]-1-methyl-ethylsulfanyl}-phenol | 1.1 mmol, 0.72 g | C(C)(C)(C)C1=C(C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OC[C@@H]1OC(O[C@H]1COC)OCC)C(C)(C)C)C(C)(C)C)O | C39H62O6S2
reactant | Acetic acid | 0.14 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 0.14 mL | O | H2O
product | 1-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxyphenylsulfanyl)-1-methylethylsulfanyl]phenoxy}-4-methoxybutane-2(S),3(S)-diol | 0.18 g, 99% | C(C)(C)(C)C1=C(OC[C@@H]([C@H](COC)O)O)C(=CC(=C1)S(SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)C)C(C)(C)C | C36H60O5S2
